US05206240
Step A: Preparation of Spiro(piperidine-4,6'-(6H)-thieno[2,3-b]thiopyran)-4'(5'H)-one hydrochloride
A solution of 14 g (40.99 mmol) of 1-benzoylspiro(piperidine-4,6'-(6H)thieno[2,3-b]thiopyran)-4'-(5'H)-one in 150 ml of ethanol was treated with 50 ml of 6 N HCl and heated at reflux for 2 days. The reaction was cooled to room temperature and the solid collected by filtration. The solid was dried overnight in vacuo to give 9.03 g of the product. mp=280° C.

reactant | 1-benzoylspiro(piperidine-4,6'-(6H)thieno[2,3-b]thiopyran)-4'-(5'H)-one | 40.99 mmol, 14 g | C(C1=CC=CC=C1)(=O)N1CCC2(CC(C3=C(S2)SC=C3)=O)CC1 | C18H17NO2S2
reactant | HCl | 6 N, 50 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Spiro(piperidine-4,6'-(6H)-thieno[2,3-b]thiopyran)-4'(5'H)-one hydrochloride | 9.03 g | Cl.S1C=CC2=C1SC1(CC2=O)CCNCC1 | InChI=1S/C11H13NOS2.ClH/c13-9-7-11(2-4-12-5-3-11)15-10-8(9)1-6-14-10;/h1,6,12H,2-5,7H2;1H
